US08614226B2
A slurry of 155 mg (0.265 mmol) 4-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl-ester in 1.5 ml 4 N HCl in dioxane was treated with 1 drop of methanol. The solution thus formed was left for 3 hours at room temperature and subsequently evaporated. The residue was treated with tert-butyl-methyl-ether and the solid was filtered off. The residue was dissolved in water and lyophilized yielding 2-(5-chloro-2-fluoro-phenyl)-4-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-3-yl]-[1,8]naphthyridine dihydrochloride als colourless lyophilisate; HPLC-MS: 1.65 min, [M+H] 485.

reactant | 4-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl-ester | 0.265 mmol, 155 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC=C(C1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C32H30ClFN6O2
solvent | HCl | 4 N, 1.5 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | methanol | 1 drop | CO | CH4O
product | 2-(5-chloro-2-fluoro-phenyl)-4-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-3-yl]-[1,8]naphthyridine dihydrochloride | Cl.Cl.ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C=1C=NN(C1)C1CCNCC1)F | InChI=1S/C27H22ClFN6.2ClH/c28-20-3-4-25(29)24(11-20)26-12-23(22-2-1-7-32-27(22)34-26)18-10-17(13-31-14-18)19-15-33-35(16-19)21-5-8-30-9-6-21;;/h1-4,7,10-16,21,30H,5-6,8-9H2;2*1H
